* C:\Users\PC\Documents\GitHub\Binary_Multiplier_SIMULINK\Delay_Power_Diss\AMA1_45nm.asc
M1 N009 A 0 N011 NMOS l=45n w=1u
M2 N009 B 0 N012 NMOS l=45n w=1u
M3 N010 B 0 0 NMOS l=45n w=1u
M4 Cout_bar A N010 0 NMOS l=45n w=1u
M5 Cout Cout_bar 0 N007 NMOS l=45n w=1u
M6 Sum Cout 0 N008 NMOS l=45n w=1u
M7 Vdd Cout_bar Cout N005 PMOS l=45n w=2u
M8 Vdd Cout Sum N006 PMOS l=45n w=2u
M9 N004 A Cout_bar Vdd PMOS l=45n w=2u
M10 Vdd B N004 Vdd PMOS l=45n w=2u
M11 Vdd B N003 N002 PMOS l=45n w=2u
M12 Vdd A N003 N001 PMOS l=45n w=2u
M13 N003 C Cout_bar Vdd PMOS l=45n w=2u
M14 Cout_bar C N009 0 NMOS l=45n
V§A A 0 PULSE(1.0 0 0 10p 10p 5n 10n)
V§B B 0 PULSE(1.0 0 0 10p 10p 10n 20n)
V§C C 0 PULSE(1.0 0 0 10p 10p 20n 40n)
Vdd Vdd 0 1.0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\PC\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib 45nm_HP.pm.txt
.tran 40n
.backanno
.end
